US04293560
To a suspension of 262 g of anhydrous ampicillin in 1850 ml of dimethylformamide, there is added, at a temperature of 5° C. and under stirring, 62 ml of an aqueous solution of a 40% aqueous solution of formaldehyde, and then, 54 g of anhydrous potassium carbonate. The mixture is stirred for 90 minutes at a temperature from 0° to 5° C., and then it is treated with 160 g of 3-bromophthalide. The reaction mixture is maintained under stirring at 10°-13° C. for further 4 hours, and then it is poured into 5 liters of water ice. The precipitate which forms is filtered, washed with 1000 ml of cold water and dissolved in 1700 ml of ethyl acetate. The residual water is eliminated, the organic solution is treated with 760 ml of N hydrochloric acid and 2500 ml of water and the resulting mixture is stirred for 45 minutes at room temperature. The aqueous layer is separated off, then it is washed once again with 200 ml of diethyl ether, maintained under reduced pressure at 20° C. for 20 minutes, and then it is filtered on asbestos pretreated with hydrochloric acid. To the clear solution so obtained, 3500 ml about, there is added, drop by drop for about 10 minutes, under stirring, a solution of 145 g of 2-methoxyphenoxyacetic acid in 1800 ml of water containing 32 g of sodium hydroxide. The precipitate which forms is left stirring for further 5 minutes, and then it is washed with 500 ml of water and dried on P2O5 at a temperature of 25° to 30° C. under reduced pressure. The talampicillin 2-methoxyphenoxyacetate is so obtained, and is identical to the product described in Example 1.

reactant | ampicillin | 262 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | formaldehyde | C=O | CH2O
reactant | potassium carbonate | 54 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromophthalide | 160 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
reactant | 2-methoxyphenoxyacetic acid | 145 g | COC1=C(OCC(=O)O)C=CC=C1 | C9H10O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 1850 ml | CN(C=O)C | C3H7NO
solvent | water | 1800 ml, 32 g | O | H2O
product | talampicillin 2-methoxyphenoxyacetate | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)OC4C=5C=CC=CC5C(=O)O4)C.COC1=C(OCC(=O)[O-])C=CC=C1 | InChI=1S/C24H23N3O6S.C9H10O4/c1-24(2)17(22(31)33-23-14-11-7-6-10-13(14)21(30)32-23)27-19(29)16(20(27)34-24)26-18(28)15(25)12-8-4-3-5-9-12;1-12-7-4-2-3-5-8(7)13-6-9(10)11/h3-11,15-17,20,23H,25H2,1-2H3,(H,26,28);2-5H,6H2,1H3,(H,10,11)/p-1/t15-,16-,17+,20-,23?;/m1./s1
